US09328091B2
(5R,7R)-4-(4-(1-(4-Chlorophenyl)-2-(isopropylamino)ethylamino)phenyl)-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-7-ol hydrochloride
1-(4-Chlorophenyl)-N2-isopropyl-N1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethane-1,2-diamine (0.075 g, 0.181 mmol), Pd(PPh3)4 (0.017 g, 0.015 mmol), and 2N Na2CO3 (0.226 mL, 0.452 mmol) were added to a solution of (5R,7R)-4-chloro-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-7-yl 4-nitrobenzoate (0.050 g, 0.151 mmol) in n-propanol (0.464 mL, 0.151 mmol). The suspension was degassed by bubbling nitrogen through the solution. The dark suspension was heated at 90° C. for 14 hours. The mixture was cooled to room temperature and then concentrated. The resulting residue was diluted with ethyl acetate and filtered. The filtrate was washed with saturated NaHCO3 and brine. The organic layer was dried and concentrated. The resulting residue was purified by Biotage SP4 (C18, 25+ 0-100% ACN). The product-containing fractions were collected and repurified by Gilson C18 (5-95 ACN/H2O+1% TFA). Tubes containing product were identified by LCMS, collected and evaporated. The material was partially dissolved in CH2Cl2, and HCl (g) was bubbled through the mixture to precipitate solid (5R,7R)-4-(4-(1-(4-chlorophenyl)-2-(isopropylamino)ethylamino)phenyl)-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-7-ol hydrochloride (8.10 mg, 12%). LCMS APCI+(M+H+): 437 (100%), 439 (30%), rt 2.55 minutes. HPLC purity at 254 nm >99%, rt=2.17 minutes. 1H NMR (400 MHz, d6-acetone) δ 8.88 (s, 1H), 7.81 (d, J=8.2 Hz, 1H), 7.78 (d, J=8.6 Hz, 1H), 7.59 (d, J=3.5 Hz, 1H), 7.58 (d, J=3.1 Hz, 1H), 7.40 (d, J=8.2 Hz, 2H), 6.65 (t, J=9.0 Hz, 2H), 5.26 (m, 1H), 5.15 (td, J=7.4, 4.3 Hz, 1H), 3.88 (m, 2H), 3.62 (br s, 2H), 3.50 (br s, 1H), 2.17 (m, 2H), 1.45 (m, 2H), 1.41 (d, J=6.6 Hz, 6H), 1.10 (t, J=7.0 Hz, 3H), 0.88 (m, 1H).

reactant | 1-(4-Chlorophenyl)-N2-isopropyl-N1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethane-1,2-diamine | 0.181 mmol, 0.075 g | ClC1=CC=C(C=C1)C(CNC(C)C)NC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C23H32BClN2O2
reactant | Na2CO3 | 0.452 mmol, 2N, 0.226 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | (5R,7R)-4-chloro-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-7-yl 4-nitrobenzoate | 0.151 mmol, 0.050 g | [N+](=O)([O-])C1=CC=C(C(=O)O[C@@H]2C[C@H](C3=C2N=CN=C3Cl)C)C=C1 | C15H12ClN3O4
reactant | n-propanol | 0.151 mmol, 0.464 mL | C(CC)O | C3H8O
catalyst | Pd(PPh3)4 | 0.015 mmol, 0.017 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (5R,7R)-4-(4-(1-(4-Chlorophenyl)-2-(isopropylamino)ethylamino)phenyl)-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-7-ol hydrochloride | Cl.ClC1=CC=C(C=C1)C(CNC(C)C)NC1=CC=C(C=C1)C=1C2=C(N=CN1)[C@@H](C[C@H]2C)O | InChI=1S/C25H29ClN4O.ClH/c1-15(2)27-13-21(17-4-8-19(26)9-5-17)30-20-10-6-18(7-11-20)24-23-16(3)12-22(31)25(23)29-14-28-24;/h4-11,14-16,21-22,27,30-31H,12-13H2,1-3H3;1H/t16-,21?,22-;/m1./s1
